US04652405
A mixture of 0.220 g. (0.00026 mole) of [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate), and 0.165 g. (0.0011 mole) of sodium iodide in 2 ml of acetone was heated at 50° for 18 hr and cooled. The mixture was poured into water and the product was isolated with methylene chloride. The organic layers were washed with aqueous sodium sulfite solution, and saturated aqueous sodium bicarbonate solution. The organic layers were dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to yield [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluoro-21-iodocholest-5-ene.

reactant | [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate) | 0.00026 mole | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](CC[C@@H](C(C)(C)OC(C)OCC)F)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1 | C48H75FO9S
reactant | sodium iodide | 0.0011 mole | [I-].[Na+]
reactant | water | O | H2O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluoro-21-iodocholest-5-ene | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@@H](C(C)(C)OC(C)OCC)F)CI)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H68FIO6
